US08536214B2
(S)-(1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.161 mmol, 50 mg) was suspended in DCM (2 mL) and triethylamine (0.321 mmol, 0.045 mL, 32.5 mg) added followed by trifluoromethanesulfonic anhydride (0.161 mmol, 0.027 mL, 45.3 mg) in DCM (500 μL) the reaction was stirred for 60 hours before the mixture was diluted with 0.5N HCl (3 mL) and DCM (3 mL). The phases mixed and separated using a hydrophobic frit and the organic layer concentrated to give a brown residue which was dissolved in DMSO (1 mL) and purified on basic preparative HPLC to give (S)-1,1,1-trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide (28.4 mg, 0.064 mmol, 39.9%) MS (ESI): m/z [M+H]+ 444.0

reactant | (S)-(1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.161 mmol, 50 mg | N[C@H]1CC2=CC=C(C=C2C1)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
reactant | triethylamine | 0.321 mmol, 0.045 mL, 32.5 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.161 mmol, 0.027 mL, 45.3 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 μL | C(Cl)Cl | CH2Cl2
solvent | HCl | 0.5N, 3 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)-1,1,1-trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide | 0.064 mmol, 28.4 mg, 39.9% | FC(S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)CN1N=C(C(=C1)CO)C(F)(F)F)(F)F | C16H15F6N3O3S
